US05416236
Synthesis of ethyl 2-fluoro-5-nitrocarbanilate
10.7 g (98.9 mmol) of ethyl chloroformate was added dropwise to a mixture of 15.0 g (94.2 mmol) of 2-fluoro-5-nitroaniline, 8.20 g (104 mmol) of pyridine and 150 ml of dichloromethane at a temperature of not higher than 5° C. Thereafter the temperature was raised to room temperature and the reaction was continued for one night. After the dichloromethane layer was separated out by adding water to the reaction mixture, the dichloromethane layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. Thereafter the dichloromethane was distilled off to obtain the crude product (crystals). The crude product was washed with hexane, thereby obtaining 21.1 g of the objective product (yield: 98%) in the form of ocher crystals.

reactant | ethyl chloroformate | 98.9 mmol, 10.7 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-fluoro-5-nitroaniline | 94.2 mmol, 15.0 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | pyridine | 104 mmol, 8.20 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | ethyl 2-fluoro-5-nitrocarbanilate | 21.1 g, yield: 98% | FC1=C(NC(OCC)=O)C=C(C=C1)[N+](=O)[O-] | C9H9FN2O4
